Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[O:7][H:8]>>[C:1]#[C:2][O:3][C:4]#[C:5][H:6].[O:7][H:8],3.70329417934
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:4],1.72812879033
[H:1][C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.5603135011700002
[O:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[O:2],2.26608216723
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7]>>[C:1]#[C:2][O:3][H:4].[O:5][C:6][C:7],-0.4261969547399999
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],1.74700390588
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[C:8]([H:9])#[C:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7],-1.5771038458000002
[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[H:7],5.92665975002
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([C:10][H:11])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:12][H:13],2.80831305232
[H:1][C:2][C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-5.3006179599
[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6][C:7]1([H:8])[H:9]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],0.547256506301
[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-8.41721420885
[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11].[O:4][C:5]#[C:6][H:7]>>[H:1][C:2]=[C:3]([O:4][C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],0.4851280990899999
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2]=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],3.0683434288
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-5.45519424586
[H:7].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7],-4.2036530940900025
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]1[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:9]([O:8])([H:10])[H:11],1.82403434612
[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]\[C:8]([H:9])([H:10])[H:11],-7.5730603023
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:7],1.95100644437
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])=[C:13]=[O:14]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]1([C:9]([H:10])([H:11])[H:12])[C:13][O:14]1,2.40841791677
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8],4.3786653821
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:9]([H:10])([H:11])[O:12][H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8],4.25829748747
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-6.3001916839
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.65805667848
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15],-4.06139317156
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][H:3],3.67959123335
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.01625055453
[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11],-6.871101297999999
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7][H:8].[H:9],4.46627230975
